US05420126
To a solution of 0.474 g of 2-(6-amino-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazin-4-yl)pyridine N-oxide in 5 ml of acetic anhydride was added 3 drops of pyridine and the mixture was stirred at room temperature for 63 hours. After concentration, the residue was dissolved in chloroform, washed with saturated aqueous sodium hydrogen carbonate solution, dried and concentrated. The residue was recrystallized from chloroform-ether to give 0.285 g of 2-(6-acetamido-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazin-4-yl)pyridine N-oxide.

reactant | 2-(6-amino-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazin-4-yl)pyridine N-oxide | 0.474 g | NC=1C=CC2=C(N(CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C1 | C15H17N3O2
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | pyridine | 3 drops | N1=CC=CC=C1 | C5H5N
product | 2-(6-acetamido-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazin-4-yl)pyridine N-oxide | 0.285 g | C(C)(=O)NC=1C=CC2=C(N(CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C1 | C17H19N3O3
